US07420083B2
Synthesis of 4-{2-[({[4-(tert-Butyl)phenyl]methylidene}amino)oxy]ethoxy}-2-{[4-(trifluoromethyl)benzyl]oxy}benzoic acid
The title compound was prepared as a white solid from 4-{2-[({[4-(tert-butyl)phenyl]methylidene}amino)oxy]-ethoxy}-2-hydroxybenzoic acid and 4-trifluromethyl benzyl bromide using a procedure similar to that of step 1 of example 6 followed by a procedure similar to that of step 3 of example 1. mp=164.1-164.8° C.; mass spectrum (+APCI, M+H) m/z 516. 1H NMR (400 MHz, DMSO-d6); δ 12.30 (s, 1H), 8.24 (s, 1H), 7.72 (m, 5H), 7.53 (d, 2H), 7.42 (d, 2H), 6.75 (d, 1H), 6.63 (dd, 1H), 5.29 (s, 2H), 4.41 (t, 2H), 4.3 (t, 2H), 1.25 (s, 9H). Elemental analysis: Calcd. for C28H28F3NO5: C, 65.24; H, 5.47; N, 2.72, Found: C, 63.30; H, 5.21; N, 2.68.

reactant | 4-{2-[({[4-(tert-butyl)phenyl]methylidene}amino)oxy]-ethoxy}-2-hydroxybenzoic acid | C(C)(C)(C)C1=CC=C(C=C1)C=NOCCOC1=CC(=C(C(=O)O)C=C1)O | C20H23NO5
reactant | 4-trifluromethyl benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
product | 4-{2-[({[4-(tert-Butyl)phenyl]methylidene}amino)oxy]ethoxy}-2-{[4-(trifluoromethyl)benzyl]oxy}benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)C=NOCCOC1=CC(=C(C(=O)O)C=C1)OCC1=CC=C(C=C1)C(F)(F)F | C28H28F3NO5
